US04188395
2-Acetoxymethyl-6-methyl-4-(-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
A solution of 5.4 g of pyridine-2-aldehyde, 9.4 g of γ-acetoxyacetoacetic acid ethyl ester and 6.5 g of β-aminocrotonic acid ethyl ester in 40 ccs of ethanol is heated to the boil overnight and then cooled. After filtering, beige crystals of melting point 116° C. are obtained, yield: 60%.

reactant | pyridine-2-aldehyde | 5.4 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | γ-acetoxyacetoacetic acid ethyl ester | 9.4 g | C(C)OC(CC(=O)COC(C)=O)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 6.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Acetoxymethyl-6-methyl-4-(-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 60% | C(C)OC(=O)C1=C(NC(=C(C1C1=NC=CC=C1)C(=O)OCC)C)COC(C)=O | C20H24N2O6
